US06313312B1
3-(3-Hexyl-6-propyl-3-azabicyclo[3.1.0]hex-6-yl)aniline
To a stirred suspension of 3-hexyl-6-(3-nitrophenyl)-6-propyl-3-azabicyclo[3.1.0]hexane (Preparation 65, 2.60 g, 7.2 mmol), ethanol (150 ml) and iron powder (0.41 g, 73.2 mmol) was added calcium chloride (1.5 g 13.0 nrmnol) in water (50 ml). The reaction mixture was heated under reflux for 16 h. The reaction mixture was cooled to room temperature, filtered through a pad of Celite®, and the mother liquors were concentrated in vacuo. The residue was dissolved in dichloromethane and filtered through a pad of sodium sulphate to give upon concentration the title compound as a yellow oil (2.17 g, 100%).

reactant | 3-hexyl-6-(3-nitrophenyl)-6-propyl-3-azabicyclo[3.1.0]hexane | 7.2 mmol, 2.60 g | C(CCCCC)N1CC2C(C2C1)(CCC)C1=CC(=CC=C1)[N+](=O)[O-] | C20H30N2O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | calcium chloride | 1.5 g | [Cl-].[Ca+2].[Cl-]
solvent | water | 50 ml | O | H2O
catalyst | iron | 73.2 mmol, 0.41 g | [Fe] | Fe
product | 3-(3-Hexyl-6-propyl-3-azabicyclo[3.1.0]hex-6-yl)aniline | 2.17 g, 100% | C(CCCCC)N1CC2C(C2C1)(CCC)C=1C=C(N)C=CC1 | C20H32N2
